US04087534
To a solution of 35.4g (0.2 mole) 4-phenyl urazole in 200 ml water was added a solution of 16g (0.4 mole) sodium hydroxide in 20 ml water. A mixture of 74.4g (0.4 mole)trichloromethylsulfenyl chloride and 3g of an emulsifier solution (EXEM 25, consisting of a mixture of alkyl benzene sulfonate and ethoxylated vegetable oil) in 50 ml water was added dropwise to the above basic solution while keeping the reaction mixture at 0° C. The reactants were mixed so that the reaction mixture was kept at a pH greater than 7. The precipitate that formed was filtered and the filter cake was washed with water. After drying and recrystallizing from benzene there was obtained 4-phenyl-1,2-bis-(trichloromethylthio)urazole having a melting point of 175° C.

reactant | 4-phenyl urazole | 0.2 mole, 35.4g | C1(=CC=CC=C1)N1C(NNC1=O)=O | C8H7N3O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | trichloromethylsulfenyl chloride | 0.4 mole, 74.4g | ClC(SCl)(Cl)Cl | CCl4S
solvent | water | 200 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 4-phenyl-1,2-bis-(trichloromethylthio)urazole | C1(=CC=CC=C1)N1C(N(N(C1=O)SC(Cl)(Cl)Cl)SC(Cl)(Cl)Cl)=O | C10H5Cl6N3O2S2
